US05283251
To a solution of 3-indolebutyric acid (25 g) and potassium carbonate (20 g) in dimethylformamide (150 ml) was added benzylbromide (21 g) at room temperature. After stirring for 4 hours, the mixture was poured into ice and diluted hydrochloric acid (300 ml). The organic layer was extracted with ethyl acetate (150 ml), and the extract was washed with water (150 ml×3) and dried over magnesium sulfate. After the solvent was removed in vacuo, the residue was crystallized from n-hexane to give a solid of benzyl 4-(3-indolyl)butyrate (33.9 g).

reactant | 3-indolebutyric acid | 25 g | N1C=C(C2=CC=CC=C12)CCCC(=O)O | C12H13NO2
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzylbromide | 21 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | 300 ml | Cl | ClH
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | benzyl 4-(3-indolyl)butyrate | 33.9 g | N1C=C(C2=CC=CC=C12)CCCC(=O)OCC1=CC=CC=C1 | C19H19NO2
